US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.50 g, 2.7 mmol), 4-fluorobenzoyl chloride (0.32 mL, 2.7 mmol), and pyridine (0.54 mL, 6.7 mmol) in acetonitrile (30 mL) provided 4-fluoro-N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)benzamide (0.55 g) after filtering the precipitate from the reaction mixture. MS (ESI) m/z 310 ([M+H]+).

reactant | tetrahydro-dibenzofuran-2-ylamine | 2.7 mmol, 0.50 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | 4-fluorobenzoyl chloride | 2.7 mmol, 0.32 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | pyridine | 6.7 mmol, 0.54 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-fluoro-N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)benzamide | 0.55 g | FC1=CC=C(C(=O)NC2=CC3=C(OC4=C3CCCC4)C=C2)C=C1 | C19H16FNO2
